US07488740B2
5. 4-Chloro-2-methoxy-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine
Add sodium methoxide (4M, 1.0 mL, 4.0 mmol) to a solution of 2,4-dichloro-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine (1.2 g, 3.5 mmol) in THF (30 mL). Stir at room temperature overnight, add water (25 mL) and extract with ethyl acetate. Wash the combined organic extracts with brine, dry (MgSO4) and evaporate. Purify the residue by flash chromatography (elute with 1:2 hexane:ether) to give the title compound.

reactant | sodium methoxide | 4.0 mmol, 4M, 1.0 mL | C[O-].[Na+]
reactant | 2,4-dichloro-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine | 3.5 mmol, 1.2 g | ClC1=NC2=NC(=CC=C2C(=C1)Cl)C1=NC=CC=C1C(F)(F)F | C14H6Cl2F3N3
reactant | water | 25 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-methoxy-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine | ClC1=CC(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)OC | C15H9ClF3N3O
